US04284644
A mixture of 23 g. of α-[(5-acetylamino-4-chloro-2-methoxycarbonylphenyl)oxy]-γ-butyrolactone, 46 ml. of triethylamine and 230 ml. of acetic anhydride was heated at 120° C. for 5 hours. The solvents were evaporated off under reduced pressure, then the residue was poured into ice-water. The precipitating crystals were collected by filtration, washed with water and dried, followed by recrystallization from ethyl acetate to give 6-diacetylamino-5-chloro-4',5'-dihydrospiro[benzo[b]furan-2(3H), 3'(2'H)-furan]-2',3-dione melting at 181°-185° C. Yield 6.8 g.

reactant | α-[(5-acetylamino-4-chloro-2-methoxycarbonylphenyl)oxy]-γ-butyrolactone | C(C)(=O)NC=1C(=CC(=C(C1)OC1C(=O)OCC1)C(=O)OC)Cl | C14H14ClNO6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-diacetylamino-5-chloro-4',5'-dihydrospiro[benzo[b]furan-2(3H), 3'(2'H)-furan]-2',3-dione | C(C)(=O)N(C=1C(=CC2=C(OC3(C(OCC3)=O)C2=O)C1)Cl)C(C)=O | C15H12ClNO6
